* File: inv_1x.pex.netlist.pex
* Created: Fri Mar  6 11:46:03 2020
* Program "Calibre xRC"
* Version "v2017.2_16.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_1X_A 3 7 10 17
c12 17 0 0.011814f
c13 10 0 0.00647659f
c14 7 0 0.030981f
c15 3 0 0.0227928f
r16 13 17 6.5
r17 10 13 89.3538
r18 5 17 1.98872
r19 5 7 35.1
r20 1 17 1.98872
r21 1 3 26.52
.ends

.subckt PM_INV_1X_VSS! 1 3 5 19 20
c11 20 0 0.0193677f
c12 10 0 0.00908166f
c13 5 0 0.00746557f
c14 3 0 0.0101166f
c15 1 0 0.0085364f
r16 12 20 0.0418175
r17 11 19 0.106158
r18 10 20 0.160909
r19 10 11 1.05231
r20 5 19 0.106158
r21 3 5 0.774615
r22 1 12 0.774615
.ends

.subckt PM_INV_1X_VDD! 2 3 5 19 20
c11 20 0 0.0194971f
c12 10 0 0.00908166f
c13 5 0 0.00749078f
c14 3 0 0.0127655f
c15 2 0 0.0106907f
r16 12 20 0.0418175
r17 11 19 0.106158
r18 10 20 0.160909
r19 10 11 1.05231
r20 5 19 0.106158
r21 3 5 1.11077
r22 2 12 1.11077
.ends

.subckt PM_INV_1X_Z 1 2 7
c6 1 0 0.0430189f
r7 2 7 1.21308
r8 1 7 1.27154
.ends

