************************************************************************
* auCdl Netlist:
* 
* Library Name:  sandbox
* Top Cell Name: inv_1x
* View Name:     schematic
* Netlisted on:  Mar  6 11:45:55 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!

*.PIN vdd!
*+    vss!

************************************************************************
* Library Name: sandbox
* Cell Name:    inv_1x
* View Name:    schematic
************************************************************************

.SUBCKT inv_1x a vdd! vss! z
*.PININFO a:I vdd!:I vss!:I z:O
MM0 z a vdd! vdd! PMOS_VTL W=180n L=50n
MM1 z a vss! vss! NMOS_VTL W=90n L=50n
.ENDS

