************************************************************************
* auCdl Netlist:
* 
* Library Name:  sandbox
* Top Cell Name: oai22_1x
* View Name:     schematic
* Netlisted on:  Jan 31 12:43:51 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: sandbox
* Cell Name:    oai22_1x
* View Name:    schematic
************************************************************************

.SUBCKT oai22_1x A B C D F gnd! vdd!
*.PININFO A:I B:I C:I D:I gnd!:I vdd!:I F:O
MM11 net13 C gnd! gnd! NMOS_VTL W=90n L=50n
MM6 net13 D gnd! gnd! NMOS_VTL W=90n L=50n
MM10 F B net13 gnd! NMOS_VTL W=90n L=50n
MM1 F A net13 gnd! NMOS_VTL W=90n L=50n
MM8 net18 C vdd! vdd! PMOS_VTL W=90n L=50n
MM9 F D net18 vdd! PMOS_VTL W=90n L=50n
MM4 F B net19 vdd! PMOS_VTL W=90n L=50n
MM2 net19 A vdd! vdd! PMOS_VTL W=90n L=50n
.ENDS

